US07842688B2
a) tert-Butyl 3-{2-[2-(2-acetylaminoethyl)phenoxy]ethoxy}-4-(4-methoxyphenyl)piperidine-1-carboxylate
Analogously to Method G, 0.24 g of tert-butyl 4-(4-methoxyphenyl)-3-[2-(toluene-4-sulphonyloxy)ethoxy]piperidine-1-carboxylate and 0.17 g of N-[2-(2-hydroxyphenyl)ethyl]acetamide are reacted. The title compound is obtained as an orange oil. Rf=0.50 (200:20:1 dichloromethane-methanol-25% conc. ammonia); Rt=4.85.

reactant | tert-butyl 4-(4-methoxyphenyl)-3-[2-(toluene-4-sulphonyloxy)ethoxy]piperidine-1-carboxylate | 0.24 g | COC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C26H35NO7S
reactant | N-[2-(2-hydroxyphenyl)ethyl]acetamide | 0.17 g | OC1=C(C=CC=C1)CCNC(C)=O | C10H13NO2
product | tert-Butyl 3-{2-[2-(2-acetylaminoethyl)phenoxy]ethoxy}-4-(4-methoxyphenyl)piperidine-1-carboxylate | C(C)(=O)NCCC1=C(OCCOC2CN(CCC2C2=CC=C(C=C2)OC)C(=O)OC(C)(C)C)C=CC=C1 | C29H40N2O6
